US07053082B1
(±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-7-propionyl-9H-1,3-dioxolo[4,5-h][2,3] benzodiazepine
1.70 g (5.0 millimoles) of (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine are stirred in 10 ml of propionic anhydride at room temperature for a day. The reaction mixture is poured into a mixture of 100 ml of water and 75 ml of dichloro methane, stirred for an hour and the pH is adjusted to 8 by adding sodium carbonate in portions. The phases are separated, the aqueous layer is extracted twice with 25 ml of dichloro methane each. The united organic layers are washed with 50 ml of a saturated sodium chloride solution, dried over magnesium sulfate and evaporated. The crude product obtained is recrystallized from 35 ml of diethyl ether. Thus 1.40 g of the desired product are obtained, yield 71%, mp.: 172–175° C.

reactant | (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 5.0 millimoles, 1.70 g | CC1NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C18H17N3O4
reactant | water | 100 ml | O | H2O
reactant | dichloro methane | 75 ml | ClCCl | CH2Cl2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | propionic anhydride | 10 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | (±)-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-7-propionyl-9H-1,3-dioxolo[4,5-h][2,3] benzodiazepine | 1.40 g, yield 71% | CC1N(N=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(CC)=O | C21H21N3O5
